US08258130B2
A solution of 2-phenyl-pyrimidine-5-carboxylic acid piperazin-1-ylamide dihydrochloride (0.29 mmol), bromoacetonitrile (0.29 mmol) and Na2CO3 (1.46 mmol) in wet THF (8 mL) is stirred at rt overnight. The reaction mixture is filtered and the filtrate is concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 1-2% methanol in DCM to afford 2-phenyl-pyrimidine-5-carboxylic acid (4-cyanomethyl-piperazin-1-yl)-amide (38 mg, 40%) as a solid. MS: 323 (M+H); 1H NMR (300 MHz, CDCl3): δ 2.60-3.30 (m, 8H), 3.55 (s, 2H), 6.63 (br, 0.5 N—H), 7.14 (br, 0.5 N—H), 7.52 (s, 3H), 8.53 (d, 2H), 9.06-9.38 (m, 2H).

reactant | 2-phenyl-pyrimidine-5-carboxylic acid piperazin-1-ylamide dihydrochloride | 0.29 mmol | Cl.Cl.N1(CCNCC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1
reactant | bromoacetonitrile | 0.29 mmol | BrCC#N | C2H2BrN
reactant | Na2CO3 | 1.46 mmol | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 2-phenyl-pyrimidine-5-carboxylic acid (4-cyanomethyl-piperazin-1-yl)-amide | 38 mg, 40% | C(#N)CN1CCN(CC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C17H18N6O
